US06333296B1
9-[4-Chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenylimino]-8-thia-1,6-diazabicyclo[4,3,0]nonane-7-one (Compound 7-1).
1,4-Dibromobutane (0.64 g) was mixed with 5-[4-chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenylimino]-1,3,4-thiadiazolidin-2-one (1.0 g) in acetone (25 ml) and potassium carbonate (0.85 g) added. The mixture was heated at reflux for 2 hours and the solvent evaporated. The residue was processed and the resulting oil chromatographed (silica gel, hexane:ethyl acetate, 4:1) to give the product (0.65 g, 57%).

reactant | 1,4-Dibromobutane | 0.64 g | BrCCCCBr | C4H8Br2
reactant | 5-[4-chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenylimino]-1,3,4-thiadiazolidin-2-one | 1.0 g | ClC1=CC(=C(C=C1OC1=NC=CC=C1C(F)(F)F)N=C1NNC(S1)=O)F | C14H7ClF4N4O2S
reactant | potassium carbonate | 0.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 9-[4-Chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenylimino]-8-thia-1,6-diazabicyclo[4,3,0]nonane-7-one | 0.65 g, 57% | ClC1=CC(=C(C=C1OC1=NC=CC=C1C(F)(F)F)N=C1SC(N2CCCCN12)=O)F | C18H13ClF4N4O2S
